US08685975B2
To a solution of 3,5-dimethoxy-4-methylbenzaldehyde (3.0 g, 16.8 mmol) in CH2Cl2 (35 mL) was added meta-chloroperoxybenzoic acid (77% purity; 5.8 g, 25.9 mmol). After stirring at room temperature for 19 hrs, additional meta-chloroperoxybenzoic acid (77% purity; 3.5 g, 15.6 mmol) was added. After heating for 4 hrs at 40° C. and cooling to room temperature, 10% aqueous Na2S2O5 was added and the mixture was stirred for 30 min. The mixture was diluted with CH2Cl2 and the layers separated. The organics were washed with 10% aqueous Na2S2O5, ˜5% aqueous NaHCO3 and brine then dried over MgSO4 and concentrated to give 3,5-dimethoxy-4-methylphenyl formate as a yellow solid (2.9 g, 88% yield).

reactant | 3,5-dimethoxy-4-methylbenzaldehyde | 16.8 mmol, 3.0 g | COC=1C=C(C=O)C=C(C1C)OC | C10H12O3
reactant | meta-chloroperoxybenzoic acid | 25.9 mmol | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | meta-chloroperoxybenzoic acid | 15.6 mmol | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dimethoxy-4-methylphenyl formate | 2.9 g, 88% yield | C(=O)OC1=CC(=C(C(=C1)OC)C)OC | C10H12O4
